US07652041B2
Step 1: Preparation of methyl (2S)-2,3-bis[(tert-butoxycarbonyl)amino]-propanoate
To a solution of methyl (2S)-2-amino-3-[(tert-butoxycarbonyl)amino]-propanoate hydrochloride (3.00 g, 11.8 mmol) and TEA (3.30 mL, 23.6 mmol) in DCM (60 mL), was added (Boc)2O (3.08 g, 14.1 mmol). The reaction was stirred for 18 h then diluted with DCM and washed with 1N HCl and brine. The organic phase was dried (Na2SO4) and evaporated to yield the title compound as a white solid (4.10 g, 100%). 1H NMR (400 MHz, CDCl3) δ: 5.42 (s, 1H), 4.83 (s, 1H), 4.35 (s, 1H), 3.75 (s, 3H), 3.54-3.48 (m, 2H), and 1.44 (s, 18H).

reactant | methyl (2S)-2-amino-3-[(tert-butoxycarbonyl)amino]-propanoate hydrochloride | 11.8 mmol, 3.00 g | Cl.N[C@H](C(=O)OC)CNC(=O)OC(C)(C)C
reactant | (Boc)2O | 14.1 mmol, 3.08 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
product | methyl (2S)-2,3-bis[(tert-butoxycarbonyl)amino]-propanoate | 4.10 g, 100% | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)CNC(=O)OC(C)(C)C | C14H26N2O6
